data/mechanisms/records/IMS8-EQ8.82f.json
{"mechanism_id": "IMS8-EQ8.82f", "species": [{"species_id": "distonic_protonated_ester_ion", "mapped_smiles": "[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_methyl_acrylate_ion", "mapped_smiles": "[CH2:3]=[CH:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_radical", "mapped_smiles": "[CH2:4][CH2:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_protonated_ester_ion"]}, {"state_id": "state_products", "species_ids": ["protonated_methyl_acrylate_ion", "alkyl_radical"]}], "steps": [{"step_id": "step_rH_alpha_backbite", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement_alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_82f", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_alpha_backbite", "support_type": "textbook_proposed", "locator": {"page": 198, "equation": "8.82", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Left column of Equation 8.82, vertical arrow labelled 'r H, a': the distonic ion .CH2-(CH2)n-1-C(=O)-O(+)(H)CH3 back-bites -- its terminal primary radical C(6) abstracts the explicitly drawn H from the carbon alpha to the ester carbonyl, C(2), through a six-membered transition state (with n = 5: C6-C5-C4-C3-C2 plus the H), and the resulting C(2) radical then alpha-cleaves the C(3)-C(4) bond to give the drawn products, the alkyl radical CH3(CH2)n-3. (n-propyl for n = 5) and the even-electron protonated methyl acrylate CH2=CH-C(=O)-O(+)(H)CH3. Book draws 4 arc(s), all single-barb fishhooks: (i) the long hook from the 'H2C.' radical dot to the alpha C-H, (ii) a hook from that C-H bond pointing back left (the H leaving with one electron), (iii) a second hook from the same C-H bond down into the C(2)-C(3) bond, and (iv) a hook from the C(3)-C(4) bond up into the C(2)-C(3) bond. Arcs (i)-(iii) all involve the migrating hydrogen, which cannot carry an atom map, so at heavy-atom level they collapse into the single move <1> = the odd electron flowing from C(6) into the forming C(2)=C(3) pi bond; arc (iv) is move <2>. Move <3>, the hook that leaves the other C(3)-C(4) electron on C(4) as the drawn neutral radical, is an implicit homolysis hook required for electron balance (not drawn on the page). INSTANTIATION (the scheme is generic in R and in the chain length n): R = CH3 and n = 5, i.e. methyl 7-hydroxyoctanoate CH3-CH(OH)-(CH2)5-C(=O)-OCH3 (C9H18O3, M+. m/z 174.1250). n = 5 is the smallest chain that makes the final 'rH, a' step of this same scheme proceed through the favoured six-membered transition state, and it keeps the book's (CH2)n-3 label meaningful ((CH2)2). NO m/z and NO percentage is printed anywhere in Equation 8.82 except 'm/z 55' on the last product; every other mass in these records is the curator's computed monoisotopic value for this instantiation, not a measured number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "70 eV EI (consecutive fragmentation of the m/z-130 distonic ion)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 130.0988, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acrylate_87", "species_id": "protonated_methyl_acrylate_ion", "step_id": "step_rH_alpha_backbite", "observed_mz": 87.0441, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
